US07884109B2
(R)-2-(4-Oxo-1,2,3,4-tetrahydronaphthalen-1-yl)isoindoline-1,3-dione.
To a solution of (R)-2-(1,2,3,4-tetrahydronaphthalen-1-yl)isoindoline-1,3-dione (3.9 g) in acetone (60 mL) at 0° C. was added MgSO4.7H2O (11.5 g) and water (20 mL). Then KMnO4 (11.5 g) was added portionwise over the period of 2 h and stirring continued at room temperature overnight. The brown solid was filtered off and the filtrate treated with saturated sodium metabisulfite, filtered, and extracted with CH2Cl2. The combined organic layer was washed with distilled water and saturated brine, dried over MgSO4, and concentrated in vacuo. The resultant was chromatographed on silica gel (EtOAc/hexane, 25/75) to afford 0.14 g of the title compound.

reactant | (R)-2-(1,2,3,4-tetrahydronaphthalen-1-yl)isoindoline-1,3-dione | 3.9 g | [C@H]1(CCCC2=CC=CC=C12)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO2
reactant | water | 20 mL | O | H2O
reactant | KMnO4 | 11.5 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | (R)-2-(4-Oxo-1,2,3,4-tetrahydronaphthalen-1-yl)isoindoline-1,3-dione | 0.14 g | O=C1CC[C@H](C2=CC=CC=C12)N1C(C2=CC=CC=C2C1=O)=O | C18H13NO3
